US08912186B2
Commercial 4-chloro-phenylacetyl chloride (0.95 g) was added dropwise to a stirred solution of commercial ethyl N-phenylglycinate (1 g) and dry pyridine (3 ml) in dichloromethane (20 ml) under nitrogen atmosphere at rt. After stirring for 72 h the mixture was poured into 10% HCl solution and extracted with ethyl acetate. The organic layer was washed with saturated NaCl solution, dried over MgSO4, and concentrated. The residue was purified by flash chromatography on silica gel (hexane/ethyl acetate 4:1) to give ethyl N-(4-chlorophenylacetyl)-N-phenylglycinate (0.95 g) as colourless oil.

reactant | 4-chloro-phenylacetyl chloride | 0.95 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | ethyl N-phenylglycinate | 1 g | C1(=CC=CC=C1)NCC(=O)OCC | C10H13NO2
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl N-(4-chlorophenylacetyl)-N-phenylglycinate | 0.95 g | ClC1=CC=C(C=C1)CC(=O)N(CC(=O)OCC)C1=CC=CC=C1 | C18H18ClNO3
